** sch_path: /headless/Downloads/dsrt2026_Muhammad_Zahran_Razzaq-main/comparator/xsch/dsrt_comparator_sim.sch
**.subckt dsrt_comparator_sim
x1 GND VCC INN EN INP out2 out dsrt_comparator
V1 VCC GND 1.8
V2 INN GND 1.235
V3 INP GND pwl 0 0.8 10u 1.8 20u 0.8 30u 1.8 40u 0.8 50u 1.8 60u 0.8 70u 1.8 80u 0.8 90u 1.8 100u 0.8
V4 EN GND pwl 0 1.8 50u 1.8 51u 0 100u 0
**** begin user architecture code
 .lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.param mc_mm_switch=0
.param mc_pr_switch=1



.option wnflag=0
.option savecurrents
.control
save all
*dc v2 0 1.8 0.01
*tran 10ps 30ns
tran 10n 100u
*plot inn inp out1 out2 out
plot inn inp out en
op
.endc


**** end user architecture code
**.ends

* expanding   symbol:  dsrt_comparator.sym # of pins=7
** sym_path: /headless/Downloads/dsrt2026_Muhammad_Zahran_Razzaq-main/comparator/xsch/dsrt_comparator.sym
** sch_path: /headless/Downloads/dsrt2026_Muhammad_Zahran_Razzaq-main/comparator/xsch/dsrt_comparator.sch
.subckt dsrt_comparator GND VCC INN EN INP out2 out
*.ipin VCC
*.ipin GND
*.ipin INP
*.ipin INN
*.ipin EN
*.opin out
*.opin out2
XM1 net3 INN net2 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM2 net1 INP net2 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM3 net1 net3 VCC VCC sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1
XM4 net3 net3 VCC VCC sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1
XM5 net2 VCC GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
**** begin user architecture code


.option wnflag=0
.option savecurrents
.control
save all
*dc v2 0 1.8 0.01
*tran 10ps 30ns
tran 10n 100u
*plot inn inp out1 out2 out
plot inn inp out en
op
.endc


**** end user architecture code
XM6 out1 net1 VCC VCC sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1
XM7 out1 net1 GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM8 out2 out1 VCC VCC sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1
XM9 out2 out1 net4 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM10 out out2 VCC VCC sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1
XM11 out out2 GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM13 net4 EN GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XM12 out2 EN VCC VCC sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1
.ends

.end
